US08058269B2
Preparation of rac-(S)-6-Amino-2-(2-{4-bromo-2-[6-chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-ylamino]-benzoylamino}-acetylamino)-hexanoic acid methyl ester
The rac-(S)-6-Amino-2-(2-{4-bromo-2-[6-chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-ylamino]-benzoylamino}-acetylamino)-6-tert-butoxycarbonylamino-hexanoic acid methyl ester (200 mg, 0.25 mmol) in 5 mL of TFA was stirred at room temperature for 0.5 hour, and concentrated in vacuo. The residue was added by 10 mL of DCM, then rinsed with 20 mL of water. The organic layer was dried over Na2SO4, and concentrated in vacuo, then purified by flash column chromatopgraphy to 146 mg white solid. MS: 704 (M+H)+.

reactant | rac-(S)-6-Amino-2-(2-{4-bromo-2-[6-chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-ylamino]-benzoylamino}-acetylamino)-6-tert-butoxycarbonylamino-hexanoic acid methyl ester | 0.25 mmol, 200 mg | COC(C(CCCC(NC(=O)OC(C)(C)C)N)NC(CNC(C1=C(C=C(C=C1)Br)NC1(C(NC2=CC(=CC=C12)Cl)=O)CC1=CC(=CC=C1)Cl)=O)=O)=O | C36H41BrCl2N6O7
solvent | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | rac-(S)-6-Amino-2-(2-{4-bromo-2-[6-chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-ylamino]-benzoylamino}-acetylamino)-hexanoic acid methyl ester | COC(C(CCCCN)NC(CNC(C1=C(C=C(C=C1)Br)NC1(C(NC2=CC(=CC=C12)Cl)=O)CC1=CC(=CC=C1)Cl)=O)=O)=O | C31H32BrCl2N5O5
